US06610707B1
Cyclopentylmethanesulfonyl Chloride
The subtitle compound was prepared by the method of Preparation 58 from sodium cyclopentylmethanesulfonate [Preparation 64] and thionyl chloride, to afford cyclopentylmethanesulfonyl chloride as a solid.

reactant | sodium cyclopentylmethanesulfonate | C1(CCCC1)CS(=O)(=O)[O-].[Na+]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | cyclopentylmethanesulfonyl chloride | C1(CCCC1)CS(=O)(=O)Cl | C6H11ClO2S
